US04159979
Synthesis of p-methylbenzylsulfonyl chloride
In dimethylformamide (90 ml) is dispersed sodium p-methylbenzylsulfonate (30 g, 0.145 mol) which is sufficientry dry. The dispersion is cooled to -10° C. and under stirring, thionyl chloride (19.2 ml, 0.29 mol) is added dropwise. The mixture is stirred at room temperature for 3 hours and poured in ice-water (500 g) and extracted with ether (3 times, 150 ml each). The ethereal layers are combined, washed twice with cold water and dried over sodium sulfate. The ether is distilled off and petroleum ether is added to the crystalline residue, followed by cooling. The crystals are collected by filtration.

reactant | sodium p-methylbenzylsulfonate | 0.145 mol, 30 g | CC1=CC=C(CS(=O)(=O)[O-])C=C1.[Na+]
reactant | thionyl chloride | 0.29 mol, 19.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | p-methylbenzylsulfonyl chloride | CC1=CC=C(CS(=O)(=O)Cl)C=C1 | C8H9ClO2S
